US07750020B2
A solution of N-methylpiperazine (9.23 g, 10.21 ml, 0.092 mol), DIEA (13 g, 17.4 mL, 0.10 mol) and DCM 80 mL is cooled to 0° C., and to this is added a solution of the title B compound, (4-chlorosulfonyl-phenyl)-acetic acid ethyl ester (22 g, 0.083 mol) in 50 mL of DCM within 30 min. Reaction mixture stirred at 0° C. for 2 h, and the reaction mixture is washed with water (100 mL), followed by 0.1 N aqueous hydrochloric acid solution (1×200 mL). The organic layer dried over sodium sulfate, filtered and concentrated under vacuo to give crude [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester. Column chromatography over silicagel (60-120 mesh), using ethyl acetate afforded pure [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester as white crystalline solid: 1H NMR (400 MHz, CDCl3) δ 1.3 (t, J=7.4, 3H), 2.3 (s, 3H), 2.5 (m, 4H), 3.0 (br s, 4H), 3.7 (s, 2H), 4.2 (q, J=7.4, 2H), 7.4 (d, J=8.3, 2H), 7.7 (d, J=7.3, 2H); MS 327 [M+1]+.

reactant | N-methylpiperazine | 0.092 mol, 10.21 ml, 9.23 g | CN1CCNCC1 | C5H12N2
reactant | DIEA | 0.10 mol, 17.4 mL, 13 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (4-chlorosulfonyl-phenyl)-acetic acid ethyl ester | 0.083 mol, 22 g | C(C)OC(CC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO4S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C15H22N2O4S
